US05202335
To a solution of (E)-2-benzylidene-3-(cis-hexahydro-2-isoindolinylcarbonyl)propionic acid (50 mg) in diethyl ether was added a solution of diazomethane in diethyl ether with stirring and the mixture was stirred at room temperature for 2 hours. The solvent was evaporated under reduced pressure to give 52 mg of methyl (E)-2-benzylidene-3-(cis-hexahydro-2-isoindolinylcarbonyl)propionate as a colorless viscous oil.

reactant | (E)-2-benzylidene-3-(cis-hexahydro-2-isoindolinylcarbonyl)propionic acid | 50 mg | C(/C1=CC=CC=C1)=C(\C(=O)O)/CC(=O)N1C[C@H]2CCCC[C@H]2C1 | C19H23NO3
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | diethyl ether | C(C)OCC | C4H10O
product | methyl (E)-2-benzylidene-3-(cis-hexahydro-2-isoindolinylcarbonyl)propionate | 52 mg | C(/C1=CC=CC=C1)=C(\C(=O)OC)/CC(=O)N1C[C@H]2CCCC[C@H]2C1 | C20H25NO3
